US07217740B2
2-chloro-5-iodopyridine (3.0 g, 12.5 mmol), 2-fluorobenzenethiol (1.6 g, 12.5 mmol), potassium carbonate (3.45 g, 25.0 mmol), ethylene glycol (1.55 g, 25.0 mmol) and copper(I) iodide (0.12 g, 0.63 mmol) were stirred in refluxing isopropyl alcohol (50 mL) for 40 hours. Room temperature was attained, water was added and the products extracted into ethyl acetate (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo while loading onto silica. Dry flash column chromatography using isohexane-2% ethyl acetate/isohexane gave 2-chloro-5-[(2-fluorophenyl)thio]pyridine as a pale yellow oil (2.0 g, 67%). δH (500 MHz, d6 DMSO): 7.25–7.29 (1H, m), 7.34–7.39 (1H, m), 7.44–7.51 (2H, m), 7.53 (1H, d, J=8.4 Hz), 7.75 (1H, dd, J=2.6, 8.4 Hz), 8.36 (1H, d, J=2.6 Hz); m/z (ES+) 240, 242 [MH+].

reactant | 2-chloro-5-iodopyridine | 12.5 mmol, 3.0 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | 2-fluorobenzenethiol | 12.5 mmol, 1.6 g | FC1=C(C=CC=C1)S | C6H5FS
reactant | potassium carbonate | 25.0 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene glycol | 25.0 mmol, 1.55 g | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.63 mmol, 0.12 g | [Cu]I
solvent | water | O | H2O
solvent | isopropyl alcohol | 50 mL | C(C)(C)O | C3H8O
product | 2-chloro-5-[(2-fluorophenyl)thio]pyridine | 2.0 g, 67% | ClC1=NC=C(C=C1)SC1=C(C=CC=C1)F | C11H7ClFNS
